US04661501
In the same manner as described in Synthesis Example 2, 3-(4-chlorophenyl)-3-methyl-2-pentanone and 3-phenoxybenzaldehyde were treated to give 1-(3-phenoxyphenyl)-4-(4-chlorophenyl)-4-methyl-hexane.

reactant | 3-(4-chlorophenyl)-3-methyl-2-pentanone | ClC1=CC=C(C=C1)C(C(C)=O)(CC)C | C12H15ClO
reactant | 3-phenoxybenzaldehyde | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
product | 1-(3-phenoxyphenyl)-4-(4-chlorophenyl)-4-methyl-hexane | O(C1=CC=CC=C1)C=1C=C(C=CC1)CCCC(CC)(C)C1=CC=C(C=C1)Cl | C25H27ClO
